US07572823B2
[2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine was prepared in analogy to example 1 from 4-trimethylsilanyl-benzaldehyde and 2-(3-trifluoromethyl-phenyl)-ethylamine. MS (ISP): 352.3 (M+H)+. 1HNMR (CDCl3, 300 MHz): δ 7.48 (m, 4H), 7.39 (m, 2H), 7.27 (d, 2H), 3.81 (s, 2H), 2.80-3.00 (m, 4H), 0.26 (s, 9H).

reactant | 4-trimethylsilanyl-benzaldehyde | C[Si](C1=CC=C(C=O)C=C1)(C)C | C10H14OSi
reactant | 2-(3-trifluoromethyl-phenyl)-ethylamine | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
product | [2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine | FC(C=1C=C(C=CC1)CCNCC1=CC=C(C=C1)[Si](C)(C)C)(F)F | C19H24F3NSi
